US07652022B2
1-[4-(6-Amino-pyrimidin-4-ylmethyl)-phenyl]-3-(4-ethyl-phenyl)-urea
The title compound is prepared as described in Example 102 but using 6-(4-aminobenzyl)-pyrimidin-4-ylamine, 4-ethyl-phenyl-isocyanate, and DMF as the solvent. The reaction mixture is stirred for 2 h. The title compound is obtained as a white solid: ES-MS: 348.0 [M+H]+; single peak at tR=6.94 min (System 2).

reactant | 6-(4-aminobenzyl)-pyrimidin-4-ylamine | NC1=CC=C(CC2=CC(=NC=N2)N)C=C1 | C11H12N4
reactant | 4-ethyl-phenyl-isocyanate | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[4-(6-Amino-pyrimidin-4-ylmethyl)-phenyl]-3-(4-ethyl-phenyl)-urea | NC1=CC(=NC=N1)CC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)CC | C20H21N5O
